** sch_path: /home/thilak-t/Desktop/projects/Dram/1t1c_dramW.sch
**.subckt 1t1c_dramW bl cs wl vdd blb
*.ipin bl
*.ipin cs
*.ipin wl
*.ipin vdd
*.ipin blb
XM1 bl cs wl gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
C1 bl gnd 200f
C3 cs gnd 30f
XM2 cs blb vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58 nrd=0.193333333333333
+ nrs=0.193333333333333 sa=0 sb=0 sd=0 mult=1
XM3 cs blb gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
XM4 blb cs vdd vdd sky130_fd_pr__pfet_01v8 L=0.15 W=1.5 nf=1 ad=0.435 as=0.435 pd=3.58 ps=3.58 nrd=0.193333333333333
+ nrs=0.193333333333333 sa=0 sb=0 sd=0 mult=1
XM5 blb cs gnd gnd sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0 mult=1
V1 vdd gnd dc 1.8
V2 wl gnd PULSE(0 1.8 5n 0.1n 0.1n 20n 50n)
V3 bl gnd dc 1.8
R1 blb gnd 10k
C4 blb gnd 200f
**** begin user architecture code
.lib /home/thilak-t/Desktop/eda_tools/open_pdks/sky130/sky130A/libs.tech/combined/sky130.lib.spice tt


.IC V(cs)=0 V(blb)=0.9
.control
  tran 0.01n 60n
  plot V(wl) V(bl) V(blb) V(cs)
  meas tran Vcs_write1  find V(cs) at=25n
  meas tran t_write     trig V(wl) val=0.9 rise=1  targ V(cs) val=0.9 rise=1
.endc


**** end user architecture code
**.ends
.GLOBAL gnd
.end
